US08563575B2
134f) 2-{2-[(4-nitrophenyl)amino]-3H-imidazo[4,5-b]pyridin-3-yl}ethanol
To a suspension of ethyl {2-[(4-nitrophenyl)amino]-3H-imidazo[4,5-b]pyridin-3-yl}acetate (3.6 g) in THF (120 mL) was added lithium borohydride (0.77 g) at room temperature, and the mixture was refluxed for 2 h. The mixture was cooled to room temperature, quenched with water and extracted with AcOEt. The organic layer was dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by column chromatography (silica gel, eluted with 50%-100% AcOEt in hexane) to give the title compound (2.2 g).

reactant | ethyl {2-[(4-nitrophenyl)amino]-3H-imidazo[4,5-b]pyridin-3-yl}acetate | 3.6 g | [N+](=O)([O-])C1=CC=C(C=C1)NC1=NC=2C(=NC=CC2)N1CC(=O)OCC | C16H15N5O4
reactant | lithium borohydride | 0.77 g | [BH4-].[Li+]
solvent | THF | 120 mL | C1CCOC1 | C4H8O
product | 2-{2-[(4-nitrophenyl)amino]-3H-imidazo[4,5-b]pyridin-3-yl}ethanol | 2.2 g | [N+](=O)([O-])C1=CC=C(C=C1)NC1=NC=2C(=NC=CC2)N1CCO | C14H13N5O3
